### PR TITLE
Golf ConvertPose proofs

### PR DESCRIPTION
**Pull request by cameronfreer**
## Summary

Golfs proofs in ConvertPose.lean without changing the API or structure.

### Proof Golfing
- `rotRM_mat_mem_SO3`: Term mode proof
- `rotRM_eq_rotRM_mat`: `ext` + two focused `simp only` calls
- `rotRM_mat_zero_alpha`: `simp [rotRM_mat]` (uses `@[simp] Rz_mat_zero`)
- `converted_pose_inner_shadow_eq`: One-liner `simp`
- `converted_pose_outer_shadow_eq`: One-liner `simp`

### New Lemma
- `@[simp] inject_xy_zero`: `inject_xy 0 = 0`

### Cleanup
- Removed duplicate ZYZ lemmas now in OrthEquivRotz (`exists_SO3_mulVec_ez_eq_ZY`, `SO3_euler_ZYZ`)

## Merge Order

Can merge independently of #11. Whichever merges second will need a minor rebase.

### CODE REVIEW

File: Noperthedron/ConvertPose.lean [hunk 1]
```diff
@@ -12,28 +12,21 @@ noncomputable
 def rotRM_mat (θ φ α : ℝ) : Matrix (Fin 3) (Fin 3) ℝ :=
   Rz_mat (-(π / 2)) * Rz_mat α * Ry_mat φ * Rz_mat (-θ)
 
-/--
-The matrix `rotRM_mat θ φ α` is in SO3 because it's a product of SO3 matrices.
```
Comment (dwrensha) [inline Noperthedron/ConvertPose.lean:14]: I like the old doc comment better. Is this a case of Claude going overboard when being told to golf the file?

File: Noperthedron/ConvertPose.lean [hunk 2]
```diff
@@ -12,28 +12,21 @@ noncomputable
...
-  · exact Bounding.rot3_mat_mem_SO3 1 φ
-  · exact Bounding.rot3_mat_mem_SO3 2 (-θ)
+/-- rotRM_mat is in SO3. -/
+lemma rotRM_mat_mem_SO3 (θ φ α : ℝ) : rotRM_mat θ φ α ∈ Matrix.specialOrthogonalGroup (Fin 3) ℝ :=
+  Submonoid.mul_mem _ (Submonoid.mul_mem _ (Submonoid.mul_mem _
+    (Bounding.rot3_mat_mem_SO3 2 _) (Bounding.rot3_mat_mem_SO3 2 _))
+    (Bounding.rot3_mat_mem_SO3 1 _)) (Bounding.rot3_mat_mem_SO3 2 _)
 
-/--
-`rotRM θ φ α` equals the continuous linear map induced by `rotRM_mat θ φ α`.
```
Comment (dwrensha) [inline Noperthedron/ConvertPose.lean:26]: I like the old doc comment better.

File: Noperthedron/ConvertPose.lean [hunk 3]
```diff
@@ -52,31 +50,11 @@ def Pose.matrixPoseOfPose (p : Pose) : MatrixPose where
...
-  constructor <;> (rintro ⟨y, hy, rfl⟩; refine ⟨y, hy, ?_⟩; congr 1)
-  all_goals
-    simp only [PoseLike.inner, Pose.matrixPoseOfPose]
-    simp only [AffineEquiv.coe_toAffineMap, AffineMap.coe_comp, Function.comp_apply,
-      AffineEquiv.vaddConst_apply, LinearMap.coe_toAffineMap]
-    rw [rotRM_eq_rotRM_mat]
-    simp only [Matrix.toEuclideanLin_apply, inject_xy]
-    ext i
-    fin_cases i <;> simp [vadd_eq_add]
+  simp [innerShadow, PoseLike.inner, Pose.matrixPoseOfPose, rotRM_eq_rotRM_mat]
```
Comment (dwrensha) [inline Noperthedron/ConvertPose.lean:60]: nice!

File: Noperthedron/ConvertPose.lean [hunk 4]
```diff
@@ -12,28 +12,21 @@ noncomputable
...
-  unfold rotRM rotRM_mat RzL RyL
-  ext v i
+  simp only [rotRM, rotRM_mat, RzL, RyL]
+  ext v
   simp only [ContinuousLinearMap.coe_comp', Function.comp_apply,
-    LinearMap.coe_toContinuousLinearMap', Matrix.toEuclideanLin_apply]
-  rw [Matrix.mulVec_mulVec, Matrix.mulVec_mulVec, Matrix.mulVec_mulVec]
+    LinearMap.coe_toContinuousLinearMap', Matrix.toEuclideanLin_apply, Matrix.mulVec_mulVec]
+  congr 1
+  simp only [Matrix.mul_assoc]
```
Comment (dwrensha) [inline Noperthedron/ConvertPose.lean]: This change seems fine to me, but it does make the proof one line longer, so I'm not sure that it's accurate to say (as in the PR description) "rotRM_eq_rotRM_mat: Simplified proof using simp only + congr"

File: Noperthedron/ConvertPose.lean (hunk 1 above)
Comment (cameronfreer) [reply Noperthedron/ConvertPose.lean:14]: Thanks for catching this -- yes, I like the old one too (and I had tried to restrict/revert some of this behavior but didn't catch all of it). Some of the Claude golfing involves removing its own excessive comments from its verbose initial passes, but I should revise the Skill to encourage it to be much more judicious when revising docstrings.

File: Noperthedron/ConvertPose.lean (hunk 4 above)
Comment (cameronfreer) [reply Noperthedron/ConvertPose.lean]: Yeah, that's fair -- thanks

File: Noperthedron/ConvertPose.lean (hunk 2 above)
Comment (cameronfreer) [reply Noperthedron/ConvertPose.lean:26]: reverted in bf8e6ee016c5c95789fb71151c2f51a580882bfb

File: Noperthedron/ConvertPose.lean (hunk 1 above)
Comment (cameronfreer) [reply Noperthedron/ConvertPose.lean:14]: reverted in bf8e6ee016c5c95789fb71151c2f51a580882bfb

File: Noperthedron/ConvertPose.lean (hunk 4 above)
Comment (cameronfreer) [reply Noperthedron/ConvertPose.lean]: golfed further to avoid the `congr`: 431513d50dfab092e097fc87100a1c0a61c1d3ce
(Replacing the terminal `simp only` by `simp` seems to too aggressively unfold things)

File: tmp_pr_notes.md [hunk 5]
```diff
@@ -0,0 +1,36 @@
+# PR: Rz-Invariance of RupertPose
```
Comment (dwrensha) [inline tmp_pr_notes.md]: Please remove this file.

Comment (cameronfreer) [reply tmp_pr_notes.md]: oops, sorry about that; now removed

**Comment by dwrensha** [comment]
Thanks!
